US06194409B1
110b. N-(1-Amino-isoquinolin-6-ylmethyl)-1-tert.butoxycarbonyl-azetidin-2(S)-carboxamide
2.00 g 1-Tert.butoxycarbonyl-azetidin-2(S)-carboxylic acid, 1.70 g 1-amino-6-aminomethyl-isoquinolin, 3.50 g TBTU were dissolved in 40 mL DMF. 3.55 mL N-methylmorpholin was added slowly with stirring. The solution was applied to a reversed-phase chromatography column (lenght 100 mm, diameter 14 mm; Merck Lichroprep RP-18, 15-25 u). Elution was started with 25 mL of methanol/water containing 0.3% acetic acid (10 : 90), then a linear gradient to pure methanol over a period of 75 mL was applied followed by 50 mL of pure methanol. Fraktions of 5 mL each were sampled. The solvent was evaporated to give 3.4 g of the tile compound. MS: 357

reactant | 1-Tert.butoxycarbonyl-azetidin-2(S)-carboxylic acid | 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
reactant | 1-amino-6-aminomethyl-isoquinolin | 1.70 g | NC1=NC=CC2=CC(=CC=C12)CN | C10H11N3
reactant | TBTU | 3.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholin | 3.55 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-(1-Amino-isoquinolin-6-ylmethyl)-1-tert.butoxycarbonyl-azetidin-2(S)-carboxamide | 3.4 g | NC1=NC=CC2=CC(=CC=C12)CNC(=O)[C@H]1N(CC1)C(=O)OC(C)(C)C | C19H24N4O3
